US08008497B2
Methyl 2-(2,4-dimethoxyphenyl)-5-nitrobenzoate (Reference Compound No. 1-(1))
A mixture of 2,4-dimethoxyphenylboronic acid (25.0 g, 137 mmol), methyl 2-bromo-5-nitrobenzoate (35.7 g, 137 mmol), cesium carbonate (89.4 g, 274 mmol) and bis(triphenylphosphine)palladium (II) dichloride (4.81 g, 6.85 mmol) was suspended in N,N-dimethylformamide (450 mL), and then the suspension was stirred under argon atmosphere at 80° C. overnight. After cooling down, ethyl acetate (200 mL), diethylether (400 mL) and water (1000 mL) were added thereto and the mixture was separated into a water phase and an organic layer. The water layer was extracted with a mixed solvent of ethyl acetate (150 mL)-diethylether (150 mL) (twice). The combined organic layer was washed with water (500 mL, 3 times) and saturated brine (500 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure to give the titled reference compound as a brown oil. (Quantitative)

reactant | 2,4-dimethoxyphenylboronic acid | 137 mmol, 25.0 g | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
reactant | methyl 2-bromo-5-nitrobenzoate | 137 mmol, 35.7 g | BrC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | cesium carbonate | 274 mmol, 89.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 450 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium | 6.85 mmol, 4.81 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
solvent | water | 1000 mL | O | H2O
solvent | diethylether | 400 mL | C(C)OCC | C4H10O
product | Methyl 2-(2,4-dimethoxyphenyl)-5-nitrobenzoate | COC1=C(C=CC(=C1)OC)C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C16H15NO6
